US06136823
Synthesis of 1-(6-Amino-3,5-difluoropyridin-2-yl)-8-chloro-6-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
1-(6-Amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (200 mg) and a 40% aqueous solution (220 mg) of methylamine were added to pyridine (820 mg), and the mixture was stirred at room temperature for 2 hours. The solvent was distilled off under reduced pressure, and ethanol (2 ml) was added to the residue. Deposits were collected by filtration and washed successively with ethanol and diisopropyl ether to obtain the title compound (182 mg) as a colorless powder.

reactant | 1-(6-Amino-3,5-difluoropyridin-2-yl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 200 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)F)F)=O)C(=O)O)F)F | C15H6ClF4N3O3
reactant | methylamine | CN | CH5N
solvent | pyridine | 820 mg | N1=CC=CC=C1 | C5H5N
product | 1-(6-Amino-3,5-difluoropyridin-2-yl)-8-chloro-6-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 182 mg | NC1=C(C=C(C(=N1)N1C=C(C(C2=CC(=C(C(=C12)Cl)NC)F)=O)C(=O)O)F)F | C16H10ClF3N4O3
